US04945098
3-Hexadecyloxycarbonyloxy-1-[6-(methanesulfonyloxy)hexyloxy]-2-methylenepropane
3-Hexadecyloxycarbonyloxy-1-(6-hydroxyhexyloxy)-2-methylenepropane (from Preparation 51) (0.54 g) and methanesulfonyl chloride (0.20 g) were stirred in methylene chloride at 0° C. Pyridine (6 ml) was added and stirring continued for 15 minutes at 0° C. and for 2.5 hours at 22° C. Methylene chloride (10 ml) was added, and the organic phase was washed with water (3×15 ml), dried over magnesium sulfate, filtered and evaporated in vacuo to dryness. Purification was achieved by chromatography on silica gel 60 (70-230 mesh, 15 g) eluting with chloroform/ether/pentane 1:1:10 followed by chloroform/ether 1:1.

reactant | 3-Hexadecyloxycarbonyloxy-1-(6-hydroxyhexyloxy)-2-methylenepropane | 0.54 g | C(CCCCCCCCCCCCCCC)OC(=O)OCC(COCCCCCCO)=C | C27H52O5
reactant | methanesulfonyl chloride | 0.20 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-Hexadecyloxycarbonyloxy-1-[6-(methanesulfonyloxy)hexyloxy]-2-methylenepropane | C(CCCCCCCCCCCCCCC)OC(=O)OCC(COCCCCCCOS(=O)(=O)C)=C | C28H54O7S
